US04321254
A mixture of 2.5 g. (16.8 mmol) 7-amino-1,2,3,4-tetrahydroisoquinoline, 30 ml. ethyl acetate and 2 ml. isopropenyl acetate was refluxed for approximately 16 hours and was then concentrated to dryness at reduced pressure. The residue was then recrystallized from a mixture of ethyl acetate and petroleum ether to afford 2-acetyl-7-amino-1,2,3,4-tetrahydroisoquinoline with a melting point of 98°-100° C.

reactant | 7-amino-1,2,3,4-tetrahydroisoquinoline | 16.8 mmol | NC1=CC=C2CCNCC2=C1 | C9H12N2
reactant | isopropenyl acetate | C(C)(=O)OC(=C)C | C5H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-acetyl-7-amino-1,2,3,4-tetrahydroisoquinoline | C(C)(=O)N1CC2=CC(=CC=C2CC1)N | C11H14N2O
